US07425631B2
Step B. Preparation of (6-formyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-carbamic acid tert-butyl Ester
To a solution of (6-hydroxymethyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-carbamic acid tert-butyl ester (3.1 g, 11.18 mmol) in CH2Cl2 (30 mL) was added MnO2 (4.85 g, 55.9 mmol). The resulting mixture was stirred at RT under N2 gas for 18 h. Solvent was separated from MnO2 by passing through the Celite®. Solvent was evaporated in vacuo to give the final product. MS m/z: 276.5 (M+H). Calc'd. for C16H21NO3-275.34.

reactant | (6-hydroxymethyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-carbamic acid tert-butyl ester | 11.18 mmol, 3.1 g | C(C)(C)(C)OC(NC1CCCC2=CC(=CC=C12)CO)=O | C16H23NO3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 55.9 mmol, 4.85 g | O=[Mn]=O
product | (6-formyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-carbamic acid tert-butyl Ester | C(C)(C)(C)OC(NC1CCCC2=CC(=CC=C12)C=O)=O | C16H21NO3
